US08809339B2
tert-butyl (2-morpholinoethyl)carbamate
Into a 250-mL round bottom flask, was placed a solution of 2-morpholinoethanamine (10 g, 76.92 mmol, 1.00 equiv) in dichloromethane (50 mL) To this was added triethylamine (5.83 g, 57.72 mmol, 0.50 equiv). This was followed by the addition of di-tert-butyl dicarbonate (18.44 g, 84.59 mmol, 1.10 equiv) at 0-5° C. The resulting solution was stirred overnight at 25° C. The resulting solution was diluted with 200 mL of dichloromethane. The resulting mixture was washed with 1×30 mL of 10% sodium bicarbonate and 1×30 mL of brine. The mixture was dried over sodium sulfate and concentrated under vacuum. This resulted in 16 g (81%) of tert-butyl 2-morpholinoethylcarbamate as an off-white solid.

reactant | 2-morpholinoethanamine | 76.92 mmol, 10 g, 1.00 equiv | O1CCN(CC1)CCN | C6H14N2O
reactant | triethylamine | 57.72 mmol, 5.83 g, 0.50 equiv | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 84.59 mmol, 18.44 g, 1.10 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | tert-butyl (2-morpholinoethyl)carbamate | O1CCN(CC1)CCNC(OC(C)(C)C)=O | C11H22N2O3
